US08486979B2
3-(3,4-difluorophenyl)-5-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 1 using 3,4-difluoro-N′-hydroxybenzimidamide (Tyger Scientific) and nicotinoyl chloride hydrochloride (Aldrich). 1H NMR (300 MHz, DMSO-d6) δ 7.74 (dd, J=7.5, 4.4 Hz, 1 H), 8.60 (dt, J=7.8, 2.1 Hz, 1 H), 8.93 (dd, J=4.8, 1.6 Hz, 1 H), 9.38 (dd, J=2.2, 1.0 Hz, 1 H), 9.44-9.48 (m, 3 H) ppm; MS (DCI/NH3) m/z 260 (M+H)+.

reactant | 3,4-difluoro-N′-hydroxybenzimidamide | FC=1C=C(C(N)=NO)C=CC1F | C7H6F2N2O
reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | NH3 | N | H3N
product | 3-(3,4-difluorophenyl)-5-(pyridin-3-yl)-1,2,4-oxadiazole | FC=1C=C(C=CC1F)C1=NOC(=N1)C=1C=NC=CC1 | C13H7F2N3O
